US06803447B2
Synthesis of the ATRP Initiator Benzyl 2-bromo-2-methyl-propionate
2-Bromo-2-methylpropionyl bromide (6.8 mL) was diluted with dichloromethane and added to a solution of triethylamine (7.7 mL) and benzyl alcohol (4.8 mL), while the mixture was cooled in an ice bath and while maintaining an argon atmosphere. The solution was stirred for one hour at 0° C. and then overnight at room temperature. Volatiles were evaporated and the residue was treated with diethylether. The formed salt was removed by filtration and the filtrate was washed with an HCl solution and with water. The ether solution was dried with MgSO4 and concentrated to yield a yellowish liquid. Silica column chromatography using a 2/1 hexane/ethyl acetate mixture as eluent gave a colourless transparent liquid. 1H NMR (400 MHz, CDCl3): δ 7.4 (5H), 5.3 (2H), 2.0 (6H).

reactant | 2-Bromo-2-methylpropionyl bromide | 6.8 mL | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | triethylamine | 7.7 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 4.8 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Benzyl 2-bromo-2-methyl-propionate | BrC(C(=O)OCC1=CC=CC=C1)(C)C | C11H13BrO2
